US07307075B2
8-Isopropyl-4H-benzo[1,4]oxazin-3-one (95MF83)
Crude 2-Amino-6-isopropylphenol (95MF80(2240) (0.16 g, 1.1 mmol), 2-chloroacetyl chloride (0.14 g, 1.2 mmol) and K2CO3 (0.32 g, 2.3 mmol) were mixed according to GP1 to give the title compound as a crude (95MF83) (0.115 g).

reactant | 2-Amino-6-isopropylphenol | NC1=C(C(=CC=C1)C(C)C)O | C9H13NO
reactant | 2-chloroacetyl chloride | 1.2 mmol, 0.14 g | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 2.3 mmol, 0.32 g | C(=O)([O-])[O-].[K+].[K+]
product | 8-Isopropyl-4H-benzo[1,4]oxazin-3-one | 0.115 g | C(C)(C)C1=CC=CC=2NC(COC21)=O | C11H13NO2
